US06916921B2
42 g of (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3β-ol benzoate were treated with 13.7 g 1,3-dibrom-5,5-dimethyl-hydantoin and 18 ml 2,4,6-trimethylpyridine as described in Example 1e) to give (without purification by column chromatography) 41.9 g of (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5,7-dien-3β-ol benzoate.

reactant | (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3β-ol benzoate | 42 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C(C2=CC[C@H]3[C@@H]4CC[C@H]([C@H](C)CO[Si](C(C)C)(C(C)C)C(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C40H64O3Si
reactant | 1,3-dibrom-5,5-dimethyl-hydantoin | 13.7 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | 2,4,6-trimethylpyridine | 18 ml | CC1=NC(=CC(=C1)C)C | C8H11N
product | (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5,7-dien-3β-ol benzoate | 41.9 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C(C2=CC=C3[C@@H]4CC[C@H]([C@H](C)CO[Si](C(C)C)(C(C)C)C(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C40H62O3Si
